US07939621B2
1. 5-(dimethylamino)-N-(2-hydroxyethyl)naphthalene-1-sulfonamide (Compound 4 in Reaction 2)
Under nitrogen, dansyl chloride (5.05 g, 18.72 mmol) was placed in a dry 250 mL round bottom flask equipped with a stir bar. Dry methylene chloride (50 mL) was added via syringe, the flask attached to an addition funnel and the system cooled to 0° C. Ethanolamine (1.25 g, 1.24 mL, 20.59 mmol), triethylamine (2.27 g, 3.13 mL, 22.46 mmol), and 75 mL of dry methylene chloride were loaded into the addition funnel, and the solution was added dropwise with stirring over 30 min. The solution was stirred for an additional 30 min before the ice bath was removed, the solution allowed to reach ambient temperature and left to stir for an additional 14 hours.

reactant | dansyl chloride | 18.72 mmol, 5.05 g | S(=O)(=O)(C1=CC=CC=2C(N(C)C)=CC=CC12)Cl | C12H12ClNO2S
reactant | Ethanolamine | 20.59 mmol, 1.24 mL, 1.25 g | C(O)CN | C2H7NO
reactant | triethylamine | 22.46 mmol, 3.13 mL, 2.27 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-(dimethylamino)-N-(2-hydroxyethyl)naphthalene-1-sulfonamide | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)NCCO)C | C14H18N2O3S
